US07262212B2
4-[4-(4-Trifluoromethoxyphenoxy)piperidin-1-yl]phenol (693 mg, 1.96 mmol) was dissolved in N,N′-dimethylformamide (3 ml), and sodium hydride (86 mg, 2.16 mmol) was added while cooling on ice followed by stirring at 70-75° C. for 20 minutes. The mixture was cooled on ice. To the solution, a solution prepared by dissolving (R)-2-bromo-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole (720 mg, 2.75 mmol) in N,N′-dimethylformamide (3 ml) was added followed by stirring at 70-75° C. for 20 minutes. The reaction mixture was allowed to return to room temperature, ice water (25 ml) was added, and the resultant solution was extracted with methylene chloride (50 ml) three times. The organic phases were combined, washed with water 3 times, and dried over magnesium sulfate. After filtration, the filtrate was concentrated, and the residue was purified by silica gel column chromatography (methylene chloride/ethyl acetate=3/1). Recrystallization from ethyl acetate/isopropyl ether gave (R)-2-methyl-6-nitro-2-{4-[4-(4-trifluoromethoxyphenoxy)piperidin-1-yl]phenoxymethyl}-2,3-dihydroimidazo[2,1-b]oxazole (343 mg, 33%) as a light yellow powder.

reactant | 4-[4-(4-Trifluoromethoxyphenoxy)piperidin-1-yl]phenol | 1.96 mmol, 693 mg | FC(OC1=CC=C(OC2CCN(CC2)C2=CC=C(C=C2)O)C=C1)(F)F | C18H18F3NO3
reactant | sodium hydride | 2.16 mmol, 86 mg | [H-].[Na+]
reactant | (R)-2-bromo-4-nitro-1-(2-methyl-2-oxiranylmethyl)imidazole | 2.75 mmol, 720 mg | BrC=1N(C=C(N1)[N+](=O)[O-])C[C@]1(OC1)C | C7H8BrN3O3
solvent | N,N′-dimethylformamide | 3 ml | CN(C)C=O | C3H7NO
solvent | N,N′-dimethylformamide | 3 ml | CN(C)C=O | C3H7NO
product | (R)-2-methyl-6-nitro-2-{4-[4-(4-trifluoromethoxyphenoxy)piperidin-1-yl]phenoxymethyl}-2,3-dihydroimidazo[2,1-b]oxazole | 343 mg, 33% | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])COC2=CC=C(C=C2)N2CCC(CC2)OC2=CC=C(C=C2)OC(F)(F)F | C25H25F3N4O6
